US03960843
9-Fluorenyl 3-methyl-7β-phenoxyacetamidoceph-3-em-4-carboxylate
3-Methyl-7β-phenoxyacetamidoceph-3-em-4-carboxylic acid (3.48 g., 10 m. moles) was dissolved with 9-aminofluorene (17.5 m moles) in dichloromethane (50 ml) together with isobutyl nitrite (3.62 g., 35 m. moles) and warmed at 35° for 18 hours. The reaction mixture was worked up as described in Example 7 except that a small quantity of ester (0.24, 0.48 m. moles) was filtered from the solution after the acid aqueous wash. On removal of the solvent the crystalline ester was slurried with warm isopropanol (50 ml), cooled and filtered to give the previously unreported title compound (2.60 g) m.pt. 214°, pure by t.l.c. Together with the previously filtered solid the weight of ester isolated represents a 56.8% yield based on the input acid. An analytical sample of the ester crystallised from acetone-methanol had m.pt. 221° - 222.5°; ν max (1% CHBr3 solution) 3390 (--NHCO--), 1778 (β-lactam) 1718 (αβ-unsaturated ester), 1688 + 1520 cm-1 (amide carbonyl); τ (8% CDCl3 solution) 2.2 - 3.2 (complex, phenoxy ring + (--NHCO--) + fluorenyl 9-C + fluorenyl ring), 5.47 (singlet, phenoxy methylene acetamido group, H2), 4.20 (doublet of doublets, J 10, 5 Hz, C-7, H), 5.04 (doublet, J 5 Hz, C-6, H), 6.45 + 6.89 (two doublets [branches of a quartet], J 18 Hz, H2), 7.84 (singlet, C-3, H3). Found C, 67.68; H, 4.64; N, 5.47. C29H24N2O5S requires C, 67.97; H, 4.72; N, 5.47%.

reactant | 3-Methyl-7β-phenoxyacetamidoceph-3-em-4-carboxylic acid | 3.48 g | CC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C16H16N2O5S
reactant | 9-aminofluorene | NC1C2=CC=CC=C2C=2C=CC=CC12 | C13H11N
reactant | isobutyl nitrite | 3.62 g | N(=O)OCC(C)C | C4H9NO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 9-Fluorenyl 3-methyl-7β-phenoxyacetamidoceph-3-em-4-carboxylate | 2.60 g | CC=1CS[C@H]2N(C1C(=O)OC1C3=CC=CC=C3C=3C=CC=CC13)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C29H24N2O5S
